US09382188B2
step 3) ethyl 3-(3-(((2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate
Under a nitrogen atmosphere, to a solution of 2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol (96.1 mg) in DMF (3.31 mL) were added ethyl 3-(3-(bromomethyl)phenyl)-3-cyclopropylpropanoate (124 mg) and potassium carbonate (91 mg) at room temperature, and the mixture was stirred for 3 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (142 mg) as a colorless oil.

reactant | 2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-ol | 96.1 mg | C(C)(C)(C)OC1=C(C=CC(=C1)O)C1=C(C=CC(=C1)OC)F | C17H19FO3
reactant | ethyl 3-(3-(bromomethyl)phenyl)-3-cyclopropylpropanoate | 124 mg | BrCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1 | C15H19BrO2
reactant | potassium carbonate | 91 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 3.31 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(3-(((2-(tert-butoxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 142 mg | C(C)(C)(C)OC1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F | C32H37FO5
